US05917034
N-t-Butoxycarbonyl-2(R,S)-(2-hydroxyethyl)piperidine
A solution of di-t-butyl dicarbonate (10.91 g, 50 mmol) in ethyl acetate (15 ml) was added to a stirred, ice-cooled solution of 2(R,S)-(2-hydroxyethyl)piperidine (5.06 g, 50 mmol) in ethyl acetate (25 ml), then the cooling bath was removed. After a further 1.5 hours the reaction mixture was evaporated under reduced pressure and the residue purified by chromatography on silica gel, using hexane:ether (1:1) as eluant, to provide the title compound (8.46 g, 74%) as a clear oil. Rf 0.25 (SS 14).

reactant | di-t-butyl dicarbonate | 50 mmol, 10.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2(R,S)-(2-hydroxyethyl)piperidine | 50 mmol, 5.06 g | OCCC1NCCCC1 | C7H15NO
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-t-Butoxycarbonyl-2(R,S)-(2-hydroxyethyl)piperidine | 8.46 g, 74% | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
